US05773423
A mixture of 2-amino-6-chloropurine riboside (purchased from Aldrich Chemical Co., 80 mg, 0.26 mmol), 3-iodobenzylamine hydrochloride (71.5 mg, 0.265 mmol), and triethylamine (0.11 ml, 0.79 mmol) in ethanol (1.6 ml) was heated for 24 h at 80° C. After the reaction mixture was concentrated to dryness the residue was purified on a silica gel column chromatography (CHCl3 --MeOH, 20:1→10:1) to yield 2-amino-N6 -(3-iodobenzyl)-9-[β-D-ribofuranosyl]-adenine (99 mg, 75%) as a colorless solid: m.p. 152°-154° C.; 1H NMR (DMSO-d6) d 3.52 (m, 1H, H-5'a), 3.63 (m, 1H, H-5'b), 3.89 (m, 1H, H-4'), 4.10 (m, 1H, H-3'), 4.50 (m, 1H, H-2'), 4.60 (br s, 2H, CH2), 5.08 (d, J=4.6 Hz, 1H, exchangeable with D2O, 3'-OH), 5.35 (m, 2H, exchangeable with D2O, 5'- and 2'-OH), 5.73 (d, J=6.2 Hz, 1H, H-1'), 5.83 (br s, 2H, exchangeable with D2O, NH2), 7.11 (pseudo t, J=7.9 and 7.8 Hz, 1H, H-5"), 7.36 (d, J=7.8 Hz, 1H, H-4" or -6"), 7.58 (d, J=7.8 Hz, 1H, H-4" or -6"), 7.70 (s, 1H, H-2"), 7.94 (s, 1H, H-8).

reactant | 2-amino-6-chloropurine riboside | 0.26 mmol, 80 mg | C1=NC2=C(N1C3C(C(C(O3)CO)O)O)N=C(N=C2Cl)N | C10H12ClN5O4
reactant | 3-iodobenzylamine hydrochloride | 0.265 mmol, 71.5 mg | Cl.IC=1C=C(CN)C=CC1
reactant | triethylamine | 0.79 mmol, 0.11 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1.6 ml | C(C)O | C2H6O
product | 2-amino-N6 -(3-iodobenzyl)-9-[β-D-ribofuranosyl]-adenine | 99 mg, 75% | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)NCC1=CC(=CC=C1)I | C17H19IN6O4
